US05196441
7.3 ml (0.1 mol) of thionyl chloride are added to 30 ml of methanol at -5° C. under N2, and 15 g (0.096 mol) of 2-carboxy-4-methylcyclohexan-1-yl-amine in 10 ml of methanol are then added dropwise to this solution at 0° C. After the mixture ha been stirred under reflux for 12 hours it is cooled, a further 10 ml of methanol and 3 ml (0.04 mol) of thionyl chloride are added, and stirring under reflux is continued for 4 hours. After cooling and evaporation to dryness, 5 g of the residue is taken up in about 50 ml of diethyl ether and the mixture is washed in about 100 ml of cold 1N Naton lye and water. The organic phase is dried and concentrated. 3.5 g (85% of theory) of 2-carboxymethyl-4-methyl-cyclohexan-1-yl-amine are obtained as a pale yellow oil.

reactant | thionyl chloride | 0.1 mol, 7.3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-carboxy-4-methylcyclohexan-1-yl-amine | 0.096 mol, 15 g | C(=O)(O)C1C(CCC(C1)C)N | C8H15NO2
reactant | thionyl chloride | 0.04 mol, 3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 10 ml | CO | CH4O
reactant | methanol | 10 ml | CO | CH4O
reactant | methanol | 30 ml | CO | CH4O
product | 2-carboxymethyl-4-methyl-cyclohexan-1-yl-amine | 3.5 g, 85% | C(=O)(O)CC1C(CCC(C1)C)N | C9H17NO2
